US05254557
4(3H)-Pyrimidone (0.772 g, 8 mmol) was dissolved in dimethylsulphoxide (10 ml) and treated with potassium tert-butoxide (0.440 g, 4 mmol). The mixture was stirred for 30 minutes at ambient temperature and 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-1-benzopyran (1.278 g, 6 mmol) added. The resulting mixture was heated at 90° C. for 30 minutes, cooled and poured into water. Extractive work up with ethyl acetate yielded a gum which was purified by chromatography on silica (ethyl acetate) to give trans-6-cyano-3,4-dihydro-2,2-dimethyl-4-(6(1H)-pyrimidinon-1-yl)-2H-1-benzopyran-3-ol 0.703 g, (38%), mpt 202°-3° (ethyl acetate/hexane).

reactant | 4(3H)-Pyrimidone | 8 mmol, 0.772 g | N1=CNC(C=C1)=O | C4H4N2O
reactant | potassium tert-butoxide | 4 mmol, 0.440 g | CC(C)([O-])C.[K+]
reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-1-benzopyran | 6 mmol, 1.278 g | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | water | O | H2O
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-6-cyano-3,4-dihydro-2,2-dimethyl-4-(6(1H)-pyrimidinon-1-yl)-2H-1-benzopyran-3-ol | 0.703 g, 38% | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C=NC=CC2=O)C1 | C16H15N3O3
